US08835449B2
Ethyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate
tert-Butyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate (2.0 g, 7.14 mmol) in ethanol (20 mL) was heated in a microwave reactor at 120° C. for 90 min. The mixture was cooled to room temperature and the solvent was concentrated under reduced pressure to give a yellow oil. The crude product was purified by flash chromatography (30-40% EtOAc: petroleum ether) to give the title compound as a yellow solid.

reactant | tert-Butyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate | 7.14 mmol, 2.0 g | OCCOC1=C(C=CC=C1)C(CC(=O)OC(C)(C)C)=O | C15H20O5
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate | OCCOC1=C(C=CC=C1)C(CC(=O)OCC)=O | C13H16O5
